US07932269B2
N-(4-Chloro-phenyl)-3-methoxy-N-[2-oxo-2-(2-phenyl-pyrrolidin-1-yl)-ethyl]-benzene sulfonamide
To a solution of [(4-chlorophenyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid (250 mg, 0.7 mmol) in dry dichloromethane (20 mL) were sequentially added EDCI (202 mg, 1.05 mmol), HOBT (142.4 mg, 1.05 mmol), and DIPEA (0.23 mL, 1.40 mmol). The reaction mixture was allowed to stir for 30 minutes under nitrogen at 25° C. 2-Phenyl-pyrrolidine (104 mg, 0.7 mmol) was added and the mixture was stirred at 25° C. for 12 h. The reaction mixture was diluted with dichloromethane (20 mL), washed with saturated aqueous ammonium chloride solution, saturated aqueous sodium bicarbonate solution and water. The organic layer was dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography over silica gel (30-40% ethyl acetate/hexane) to yield the title compound.

reactant | [(4-chlorophenyl)-(3-methoxy-benzenesulfonyl)-amino]-acetic acid | 0.7 mmol, 250 mg | ClC1=CC=C(C=C1)N(S(=O)(=O)C1=CC(=CC=C1)OC)CC(=O)O | C15H14ClNO5S
reactant | EDCI | 1.05 mmol, 202 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.05 mmol, 142.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.40 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Phenyl-pyrrolidine | 0.7 mmol, 104 mg | C1(=CC=CC=C1)C1NCCC1 | C10H13N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4-Chloro-phenyl)-3-methoxy-N-[2-oxo-2-(2-phenyl-pyrrolidin-1-yl)-ethyl]-benzene sulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)C1=CC(=CC=C1)OC)CC(N1C(CCC1)C1=CC=CC=C1)=O | C25H25ClN2O4S
